US05889032
1-[(2RS)-6-Benzyloxy-2,5,7,8-tetramethylchroman-2-ylmethyl]piperazine
The title compound (7 g, 47%) was prepared as a syrupy liquid from (2RS)-6-benzyloxy-2,5,7,8-tetramethylchroman-2-ylmethyl methanesulphonate (15 g) and piperazine (19 g) by an analogous procedure to that described in preparation 1.

reactant | (2RS)-6-benzyloxy-2,5,7,8-tetramethylchroman-2-ylmethyl methanesulphonate | 15 g | CS(=O)(=O)OCC1(OC2=C(C(=C(C(=C2CC1)C)OCC1=CC=CC=C1)C)C)C | C22H28O5S
reactant | piperazine | 19 g | N1CCNCC1 | C4H10N2
product | 1-[(2RS)-6-Benzyloxy-2,5,7,8-tetramethylchroman-2-ylmethyl]piperazine | 7 g, 47% | C(C1=CC=CC=C1)OC=1C(=C2CCC(OC2=C(C1C)C)(C)CN1CCNCC1)C | C25H34N2O2
